US07553846B2
To an ice-cold solution of 1-methylcyclopropanecarboxylic acid (214 mg, 2.14 mmol) in dichloromethane (10 mL) was added oxalyl chloride (0.19 mL, 2.14 mmol) dropwise. The ice bath was removed and stirring was continued for 1 h. 2-Amino-3-hydroxybenzoic acid hydrobromide (500 mg, 2.14 mmol) was added followed by triethylamine (0.90 mL, 6.42 mmol). The resulting reaction mixture was stirred at room temperature overnight. The reaction was quenched with aqueous 1 N HCl (25 mL) until the solution reached pH 1. The reaction mixture was extracted with dichloromethane. The combined organic layers were dried over Na2SO4, filtered and concentrated to a brown solid. The crude was dissolved in toluene (10 mL) and the solution was treated with p-toluenesulfonic acid monohydrate (477 mg, 2.50 mmol). The reaction mixture was then heated to reflux for 1 h. The reaction was cooled to room temperature, poured into water and extracted with ethyl acetate. The organic layer was separated, then washed with water (5×50 mL), brine, dried (Na2SO4), filtered and concentrated to afford 2-(1-methylcyclopropyl)benzoxazole-4-carboxylic acid (306 mg, 65%) as a light yellow solid: 1H NMR (500 MHz, DMSO-d6) δ 12.89 (br s, 1H), 7.85 (dd, J=8.0, 0.9 Hz, 1H), 7.81 (dd, J=7.7, 0.9 Hz, 1H), 7.39 (t, J=7.9 Hz, 1H), 2.91 (s, 3H), 1.42-1.37 (m, 2H), 1.10-1.05 (m, 2H); MS (ESI+) m/z 218 (M+H).

reactant | 1-methylcyclopropanecarboxylic acid | 2.14 mmol, 214 mg | CC1(CC1)C(=O)O | C5H8O2
reactant | oxalyl chloride | 2.14 mmol, 0.19 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-Amino-3-hydroxybenzoic acid hydrobromide | 2.14 mmol, 500 mg | Br.NC1=C(C(=O)O)C=CC=C1O
reactant | triethylamine | 6.42 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid monohydrate | 2.50 mmol, 477 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(1-methylcyclopropyl)benzoxazole-4-carboxylic acid | 306 mg, 65% | CC1(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C12H11NO3
